US03948943
N-Benzoyl-glycine n-dodecylamide
A mixture consisting of 10 gm (0.056 mol) of N-benzoyl-glycine and 10.5 gm (0.056 mol) of n-dodecyl-amine was heated for 90 minutes at 160°C., while stirring. Thereafter, ethyl acetate and activated charcoal were added to the reaction mixture, and the mixture was vacuum-filtered while still hot. Upon cooling of the filtrate, a crystalline substance separated out which was collected and again recrystallized from ethyl acetate, yielding 11.9 gm (58% of theory) of the compound of the formula ##EQU4## having a melting point of 124°C.

reactant | N-benzoyl-glycine | 0.056 mol, 10 gm | C(C1=CC=CC=C1)(=O)NCC(=O)O | C9H9NO3
reactant | n-dodecyl-amine | 0.056 mol, 10.5 gm | C(CCCCCCCCCCC)N | C12H27N
reactant | charcoal | C | CH4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-Benzoyl-glycine n-dodecylamide | C(CCCCCCCCCCC)NC(CNC(C1=CC=CC=C1)=O)=O | C21H34N2O2
